US08022223B2
Step A: Preparation of ethyl 4-chloro-3-(2-(4-methylthiazol-2-ylamino)-5-(phenylthio)pyridin-3-yloxy)benzoate:
Prepared according to the method of Example 13, using Ethyl 3-(5-bromo-2-(4-methylthiazol-2-ylamino)pyridin-3-yloxy)-4-chlorobenzoate and benzenethiol.

reactant | Ethyl 3-(5-bromo-2-(4-methylthiazol-2-ylamino)pyridin-3-yloxy)-4-chlorobenzoate | BrC=1C=C(C(=NC1)NC=1SC=C(N1)C)OC=1C=C(C(=O)OCC)C=CC1Cl | C18H15BrClN3O3S
reactant | benzenethiol | C1(=CC=CC=C1)S | C6H6S
product | ethyl 4-chloro-3-(2-(4-methylthiazol-2-ylamino)-5-(phenylthio)pyridin-3-yloxy)benzoate | ClC1=C(C=C(C(=O)OCC)C=C1)OC=1C(=NC=C(C1)SC1=CC=CC=C1)NC=1SC=C(N1)C | C24H20ClN3O3S2
